US07989449B2
(RS)-4-(3-Bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block S)
According to general method 2, a solution of iodine in ethyl acetate was added to a mixture of 4-[1-(3-bromo-phenyl)-vinyl]-1-difluoromethoxy-2-methyl-benzene (4.9 g, 14 mmol) and silver cyanate in ethyl acetate/acetonitrile. The crude product of this reaction was subsequently reacted with aqueous ammonia (30% by vol). Purification by SCX yielded 4.8 g of product (85%).

reactant | iodine | II | I2
reactant | 4-[1-(3-bromo-phenyl)-vinyl]-1-difluoromethoxy-2-methyl-benzene | 14 mmol, 4.9 g | BrC=1C=C(C=CC1)C(=C)C1=CC(=C(C=C1)OC(F)F)C | C16H13BrF2O
reactant | ammonia | N | H3N
reactant | ethyl acetate acetonitrile | C(C)(=O)OCC.C(C)#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver cyanate | [Ag]OC#N
product | (RS)-4-(3-Bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine | 4.8 g, 85% | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC(=C(C=C1)OC(F)F)C | C17H15BrF2N2O2
